US04360680
3-Amino-5-methyl-1-phenyl-2-pyrazoline
A 2.0 g. amount of sodium metal is dissolved in 200 ml. of absolute ethanol, then 32.4 g. of phenylhydrazine in 50 ml. of ethanol is added followed in 10 minutes by 20.1 g. of crotononitrile. The reaction mixture is refluxed for 5 hours. Most of the ethanol is removed in vacuo, water is added and the product is collected by filtration. The solid is dissolved in dichloromethane. This solution is passed through a short column of a hydrous magnesium silicate. The column effluent is then refluxed on a steam bath with the gradual addition of hexane to crystallize a product. The product is collected and recrystallized from acetone-hexane to give 26.9 g. of the product of the Example as colorless prisms, m.p. 103.5°-106° C.

reactant | sodium | [Na] | Na
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | crotononitrile | C(\C=C\C)#N | C4H5N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-5-methyl-1-phenyl-2-pyrazoline | NC1=NN(C(C1)C)C1=CC=CC=C1 | C10H13N3
